US08975252B2
Trimethylsilyl trifluoromethanesulfonate (213 μL) was added to a solution of tert-butyl cyclopropyl{[1-(3-methoxypropyl)-4-methyl-1H-indol-3-yl]methyl}carbamate (175 mg and 2,6-lutidine (192 μL) in dichloromethane (7 ml) under ice-cooling and the mixture was stirred at room temperature for 15 minutes. A saturated aqueous solution of sodium bicarbonate and methanol were added successively to the reaction mixture and the mixture was further stirred at the same temperature for 30 minutes. The reaction mixture was extracted with chloroform and the organic layer was washed with saturated brine, dried over magnesium sulfate and concentrated in vacuo. The resulted residue was purified with a silica gel column chromatography (eluting solvent: ethyl acetate/methanol=95/5 to 70/30) to give N-{[1-(3-methoxypropyl)-4-methyl-1H-indol-3-yl]methyl}cyclopropanamine (106 mg) as a colorless oil.

reactant | Trimethylsilyl trifluoromethanesulfonate | 213 μL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | tert-butyl cyclopropyl{[1-(3-methoxypropyl)-4-methyl-1H-indol-3-yl]methyl}carbamate | C1(CC1)N(C(OC(C)(C)C)=O)CC1=CN(C2=CC=CC(=C12)C)CCCOC | C22H32N2O3
reactant | 2,6-lutidine | 192 μL | N1=C(C=CC=C1C)C | C7H9N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | N-{[1-(3-methoxypropyl)-4-methyl-1H-indol-3-yl]methyl}cyclopropanamine | 106 mg | COCCCN1C=C(C2=C(C=CC=C12)C)CNC1CC1 | C17H24N2O
